Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
___ married, Caucasian male with no formal
psychiatric history who self-presents with his wife after
acute-on-chronic worsening of previously subclinical paranoid
ideation.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
This is a ___ married, Caucasian male with no formal
psychiatric history who self-presents with his wife after
acute-on-chronic worsening of previously subclinical paranoid
ideation. The patient describes that subtle referential thinking
began about 10 months ago, just around the time of the death of
his friend’s father. At this time, he began attributing meaning
to seemingly insignificant events, such as misplacing a bottle
opener or the movement of a box outside of his house. These
thoughts did not impact his functioning, and he minimized their
significance at the time. However, approximately two weeks prior
to presentation, the patient’s brother was arrested for an
unclear incident, where the brother was accused of “stalking” a
group of individuals over a period of years. This allegedly
included monitoring people’s whereabouts and other potential
violations of a civil/criminal nature. When this event occurred,
the patient and the rest of the family became involved and
exposed to media attention, as well as being prompted with many
unanswered questions regarding the behaviors of the patient’s
brother. The patient reports that his brother stated that people
were in fact monitoring his activities and stated, “my brother
might be the one getting screwed.” Since these allegations have
surfaced, the patient has experienced a severe amplification of
paranoid thinking, ideas of reference, conspiratory delusions 
and
other referential thought processes. While he admits that some 
of
the, “connecting the dots” he is experiencing seems irrational,
he concurrently believes that many recent events are in fact
connected and represent a plot of some kind, “I think the mob is
probably involved.” Examples of this delusional and referential
thinking include removing the battery from his wireless phone
then sensing the presence of police around him, installing
cameras on his property to monitor it, being convinced that his
computer has been broken into regardless of repeated attempts to
repair it, feeling that the screws to his wife’s care were
removed by someone on purpose, and feeling as though a number of
vehicles followed him to the hospital from his home in ___
today. Notable medical and substance history are discussed 
below.
The following psychiatric review of systems provides further
details regarding significant presenting signs and symptoms:
--depression: significant for intermittent insomnia, guilt,
anorexia with recent weight change of about 10 pounds; denies
anhedonia, fatigue, decreased concentration, psychomotor
retardation or agitation, decreased attention to activities of
daily living
--anxiety/OCD: significant for excessive worry, restlessness,
irritability; denies panic attacks, obsessional thoughts/urges,
compulsive rituals 
--mania: patient denies distractibility, indiscriminate or risky
behaviors, grandiosity, flight of ideas, increased goal-directed
activity, prolonged insomnia, pressured speech
--psychosis: significant for paranoid ideations, bizarre
delusions and referential thinking as noted above; denies
auditory, visual hallucinations
--safety: patient denies passive or active suicidality, intent,
lethal means, plans, or attempt; also denies recent feelings of
hopelessness, worthlessness, impulsivity, recent medication
adjustment or non-compliance; endorses recent substance abuse
(see below)
--character pathology: none demonstrated or reported 
 
Past Medical History:
--___ medical diagnoses: three prior Lyme disease infections
(___) all treated with sufficient course of
antibiotics, however the first case was treated after a
prolonged, undiagnosed infection; most recent course of
Doxycycline lasted for about ___ months and ended in ___ 
--primary care provider: ___, NP in ___  
--history of head trauma, seizures: patient denies
 
Social History:
___
Family History:
--history of suicidality or suicide attempts: patient denies 
--history of diagnosed psychiatric/substance abuse disorders:
patient denies 
--history of inpatient psychiatric hospitalizations: patient
denies 
 
Physical Exam:
Temp:98 HR:97 BP:160/103 Resp:18 O(2)Sat:100 ___ 

               Constitutional: Comfortable
                  Head / Eyes: Normocephalic, atraumatic, 
                               ___ equal, round and 
                               reactive to light, 
                               Extraocular muscles intact
                   ENT / Neck: Oropharynx within ___ 
                               ___
                   Chest/Resp: Clear to auscultation
               Cardiovascular: Regular Rate and Rhythm, 
                               ___ first and second heart
                               ___
               GI / Abdominal: Nondistended, Nontender, 
                               ___
                     GU/Flank: No costovertebral angle 
                               tenderness
               Musc/Extr/Back: No cyanosis, clubbing or 
                               ___
                         Skin: No rash
                        Neuro: Speech fluent, ___ motor 
                               sensory cranial nerve exam
                        Psych: Tearful
                 ___: No petechiae
 
Pertinent Results:
___ 12:25PM   GLUCOSE-115* UREA N-17 CREAT-1.2 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-26 ANION GAP-11
___ 12:25PM   TSH-1.8
___ 12:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 12:25PM   WBC-5.3 RBC-5.12 HGB-15.8 HCT-44.4 MCV-87 
MCH-30.8 MCHC-35.5* RDW-12.9
___ 12:25PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
 
Brief Hospital Course:
1.Paranoia – pt initially presented with marked paranoid
ideations and referential thinking.
--on ___, the pt had recompensated markedly since admission,
with minimalization when discussing his previous symptomatology.
He still appears somewhat guarded and subclinical paranoia is
likely.
--as of the day of discharge, the pt exhibited significant 
insight into 
the severity of his paranoia and extent to which it has effected 
his functioning outside of the hospital. While his 
suspiciousness was still present, it could be characterised as a 
tendancy towards overvalued ideas regarding the actions and 
behaviors of others.
--neuropsychological testing demonstrated WNL results on all 
functional scales.

2.Medications – pt without medications on admission.
--on ___ pt agreed to Abilify 5mg PO qAM trial with Klonopin
0.5mg PO BID PRN for symptomatic restlessness related to 
Abilify.
-as of the day of discharge, the pt appeared to tolerate the 
aforementioned medication trial without significant SE/AE. The 
dose of Abilify should be titrated as tolerated to a therapeutic 
dose, and the Klonopin tapered once the risk for Abilify-related 
restlessness has subsided.

3.Risk and safety assessment – pt initially presented without
acute risk of harm to self or others, although with a gross
inability to care for himself and function.
--on ___, pt presented as without acute threat of harm to self
or other, and in the process of recompensating functional
capacity through psychotherapeutic interventions
--as of the day of discharge, the pt presented as without acute 
threat of harm to self or other, and with significantly 
functional
recompensation through psychotherapeutic interventions 
sufficient to warrent discharge from the inpatient setting.

4.Legal - the pt remained on a CV throughout this 
hospitalization.

5.Disposition – discharge to home with likely PHP placement 
through the ___. Follow-up appointments with the 
pt's therapist and a new prescriber were made, and sufficient 
prescriptions were given to the patient to last until his first 
MD appointment.

 
Medications on Admission:
___
 
Discharge Medications:
1. Abilify 5 mg Tablet Sig: One (1) Tablet PO qAM.
Disp:*30 Tablet(s)* Refills:*0*
2. Klonopin 0.5 mg Tablet Sig: One (1) Tablet PO once a day as 
needed: Please take with Abilify as needed.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis 1: Brief reactive delusional episode
Axis 2: Deferred
Axis 3: Recurrent Lyme infection
Axis 4: Severe psychosocial stressors identified
Axis 5: GAF upon discharge: 45

 
Discharge Condition:
MENTAL STATUS EXAM:
--appearance: good grooming with good eye contact
--behavior/attitude: cooperative ; exhibited no PMR, PMA
--speech: ___ rate and tone 
--mood (in patient's words): “very good” 
--affect: full affect; appropriate to the context
--thought content (describe): hopeful cognitions without 
obsessions, delusions 
--thought process: linear 
--perception: without AH, VH, delusions, overt paranoia
--SI/HI: without SI without intent, plan; no HI; verbalized 
safety plan
--insight: intact 
--judgment: intact 

ABBREVIATED COGNITIVE EXAM:
--orientation: alert to person, place, time, situation
--attention/concentration: grossly intact
--memory (ball, chair, purple): immediate intact and remote 
intact
--language: grossly intact
--fund of knowledge: grossly intact 

 
Discharge Instructions:
Please take medication as prescribed and keep all follow-up 
appointments as scheduled. Please call your providers, dial 911, 
or return to the nearest ED if SI/HI or if initial presenting 
symptoms return.
 
Followup Instructions:
___